US06951888B2
(b) 1-(3,4-dihydroxy-2-methoxyphenyl)-2-(1,1-dimethylpropylamino)ethanone
25 g of 2-(1,1-dimethylpropylamino)-1-(4-methoxy-2,2-diphenylbenzo[1,3]dioxol-5-yl) ethanone is refluxed with 50 mL of 15% methanolic hydrochloric acid for 2 hours with stirring. The solvent is distilled off under reduced pressure and the residue is dissolved in acetonitrile and combined with ethyl acetate. The precipitated crystals are suction filtered and washed with acetonitrile and diethyl ether. Yield: 15 g (92%) of the compound as the hydrochloride.

reactant | 2-(1,1-dimethylpropylamino)-1-(4-methoxy-2,2-diphenylbenzo[1,3]dioxol-5-yl) ethanone | 25 g | CC(CC)(C)NCC(=O)C1=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)OC | C27H29NO4
solvent | hydrochloric acid | 50 mL | Cl | ClH
product | 1-(3,4-dihydroxy-2-methoxyphenyl)-2-(1,1-dimethylpropylamino)ethanone | OC=1C(=C(C=CC1O)C(CNC(CC)(C)C)=O)OC | C14H21NO4
